US06358972B1
5-(Pyrid-3-yl)-3-(1-Methylpiperidin-4-yl)-1H-Indole
A mixture of 3-(1-methylpiperidin-4-yl)-1H-indole-5-boronic acid (0.200g, 0.78 mmol), 3-bromopyridine (0.117 g, 0.74 mmol), 1,1′-[bis(diphenylphosphino)ferrocene]-dichloropalladium(II) complex with dichloromethane (Pd(dppf)Cl2.CH2Cl2) (0.03 g, 0.37 mmol), and 2M aqueous sodium carbonate solution (2 mL) in 7 mL of tetrahydrofuran was heated at reflux, with stirring, overnight. The mixture was allowed to cool to room temperature, diluted with ethyl acetate and 2N aqueous sodium hydroxide solution, and the organic phase was separated, washed with brine solution, dried over sodium sulfate, concentrated in vacuo and purified by silica gel (flash) chromatography (solvent gradient: 100% dichloromethane—25:2 dichloromethane: methanol/aqueous ammonium hydroxide) to give 0.114 g (53%) of the title compound as an amorphous pink solid. FDMS m/e=291 (M+). EA calculated for C19H21N3: C, 78.32; H, 7.26; N, 14.42. Found: C, 78.39; H, 7.39; N, 14.36.

reactant | 3-(1-methylpiperidin-4-yl)-1H-indole-5-boronic acid | 0.78 mmol, 0.200g | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)B(O)O | C14H19BN2O2
reactant | 3-bromopyridine | 0.74 mmol, 0.117 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | dichloromethane | 0.37 mmol, 0.03 g | ClCCl | CH2Cl2
reactant | sodium carbonate | 2M, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium hydroxide | 2N | [OH-].[Na+]
product | 5-(Pyrid-3-yl)-3-(1-Methylpiperidin-4-yl)-1H-Indole | 0.114 g, 53% | N1=CC(=CC=C1)C=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C19H21N3
